US06855722B2
3-{5-[2-(6-Methylamino-pyridin-2-yl)-ethoxy]-indol-1-yl}-3-quinolin-3-yl-propionic acid
The title compound was synthesized from {6-[2-(1H-indol-5-yloxy)-ethyl]-pyridin-2-yl}-methyl-carbamic acid tert-butyl ester and quinolin-3-yl-propynoic acid ethyl ester, using the procedure described in Example 16, step (d1), in 48% yield, as an E/Z isomeric mixture. H1 NMR (Cl3CD), δ: 8.91 (d, 0.3H, J=2.1 Hz), 8.88 (d, 0.3H, J=2.3 Hz), 8.17 (d, 0.7H, J=8.8 Hz), 8.14-8.11 (m, 1H), 7.97 (d, 0.3H, J=2.0 Hz), 7.82-7.74 (m, 2H), 7.60 (m, 1H), 7.53 (m, 1H), 7.49 (m, 1H), 7.17 (m, 1H), 7.11 (m, 1H), 6.92-6.97 (m, 2H), 6.78 (dd, 0.7H, J=2.5, 9.0 Hz), 6.70 (dd, 0.3H, J=2.5, 9.0 Hz), 6.64 (d, 0.3H, J=3.2 Hz), 6.55 (d, 0.7H, J=3.5 Hz), 6.39 (s, 0.3H), 6.32 (s, 0.7H), 4.39 (m, 2H), 4.10 (q, 1.4H, J=7.2 Hz), 4.04 (q, 0.6H, J=7.2 Hz), 1.39 (s, 0.9H), 1.38 (s, 2.1H), 3.21 (m, 2H), 1.51 (s, 9H), 1.14 (t, 2.1H, J=7.2 Hz), 1.05 (t, 0.9H, J=7.2 Hz).

reactant | {6-[2-(1H-indol-5-yloxy)-ethyl]-pyridin-2-yl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=NC(=CC=C1)CCOC=1C=C2C=CNC2=CC1)=O | C21H25N3O3
reactant | quinolin-3-yl-propynoic acid ethyl ester | C(C)OC(C#CC=1C=NC2=CC=CC=C2C1)=O | C14H11NO2
product | 3-{5-[2-(6-Methylamino-pyridin-2-yl)-ethoxy]-indol-1-yl}-3-quinolin-3-yl-propionic acid | 48% yield | CNC1=CC=CC(=N1)CCOC=1C=C2C=CN(C2=CC1)C(CC(=O)O)C=1C=NC2=CC=CC=C2C1 | C28H26N4O3
